US03995063
2-nitro-1-(p-tolyl)-1-propanol
The procedure of Example 1 was followed for the reaction of 120 g of p-tolualdehyde and 114 g of sodium bisulfite with 150 g of 1-nitroethane and 80 g of sodium hydroxide. Water was the solvent. The final product was a yellow liquid weighing 103 g: ir (film) 2.85 (m), 3.4 (m), 6.5 (s), 7.2 (m), 7.35 (m), 9.5 (m), 12.15 (m) microns; nmr (CDCl3) 7.12 (4H, s), 5.0 to 4.5 (2H, m), 2.95 (1H, s), 2.3 (3H, s), 1.4 and 1.2 (3H, doublet and doublets) ppm.

reactant | p-tolualdehyde | 120 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | sodium bisulfite | 114 g | S([O-])(O)=O.[Na+]
reactant | 1-nitroethane | 150 g | [N+](=O)([O-])CC | C2H5NO2
reactant | sodium hydroxide | 80 g | [OH-].[Na+]
solvent | Water | O | H2O
product | 2-nitro-1-(p-tolyl)-1-propanol | [N+](=O)([O-])C(C(O)C1=CC=C(C=C1)C)C | C10H13NO3
